US07420055B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(1-methyl-1H -imidazole-2-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared using 4-t-butyl-benzenesulfonyl chloride and (2-Amino-5-chloro-phenyl)-(1-methyl-1H-imidazol-2-yl)-methanone following the general procedure described for the preparation of N-aryl-benzenesulfonamides. MS: m/z 452.1 (M++1).

reactant | 4-t-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | (2-Amino-5-chloro-phenyl)-(1-methyl-1H-imidazol-2-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1N(C=CN1)C | C11H10ClN3O
product | 4-tert-Butyl-N-[4-chloro-2-(1-methyl-1H -imidazole-2-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1N(C=CN1)C | C21H22ClN3O3S
